US08034940B2
Sodium 2-propanethiolate (58.5 mg, 0.596 mmol) was added to a solution of methyl 2-methyl-2-(3-(4-(morpholine-4-carbonyl)phenyl)-10H-chromeno[3,2-c]pyridin-10-yl)propanoate (140.9 mg, 0.298 mmol) in DMF (5 mL) and the mixture was heated to 50° C. After 1 h at 50° C., additional sodium 2-propanethiolate (58.5 mg) was added. The mixture was stirred at 50° C. overnight. Another portion of sodium 2-propanethiolate (200 mg) was added. After another hour at 50° C., the mixture was quenched with saturated NH4Cl (20 mL) and extracted with EtOAc (4×20 mL). The combined extracts were washed with brine (5 mL), dried (MgSO4) and concentrated to give 2-methyl-2-(3-(4-(morpholine-4-carbonyl)phenyl)-10H-chromeno[3,2-c]pyridin-10-yl)propanoic acid as a solid (145.5 mg). MS (ES+) m/z: 459 (M+H); HPLC retention time: 3.51 min (Analytical HPLC Method D).

reactant | Sodium 2-propanethiolate | 0.596 mmol, 58.5 mg | CC(C)[S-].[Na+]
reactant | methyl 2-methyl-2-(3-(4-(morpholine-4-carbonyl)phenyl)-10H-chromeno[3,2-c]pyridin-10-yl)propanoate | 0.298 mmol, 140.9 mg | CC(C(=O)OC)(C)C1C=2C=CC=CC2OC2=C1C=NC(=C2)C2=CC=C(C=C2)C(=O)N2CCOCC2 | C28H28N2O5
reactant | sodium 2-propanethiolate | 58.5 mg | CC(C)[S-].[Na+]
reactant | sodium 2-propanethiolate | 200 mg | CC(C)[S-].[Na+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-methyl-2-(3-(4-(morpholine-4-carbonyl)phenyl)-10H-chromeno[3,2-c]pyridin-10-yl)propanoic acid | 145.5 mg | CC(C(=O)O)(C)C1C=2C=CC=CC2OC2=C1C=NC(=C2)C2=CC=C(C=C2)C(=O)N2CCOCC2 | C27H26N2O5
